US07723350B2
A 2-L round bottom flask was charged with DCM (900 mL) and oxalylchloride (25.36 g, 0.20 mole, 1.3 eq.) and cooled to −78° C. Dimethylsulfoxide (DMSO, 31.22 g, 0.40 mole, 2.6 eq.) was added dropwise and the mixture was stirred at −78° C. for 10 min. Then, {1-[(2E)-3-(3,5-difluorophenyl)-2-propenoyl]-4-piperidinyl}methanol (43.2 g, 0.15 mole, 1.0 eq, dissolved in 100 mL of DCM and a few mL DMSO) was added slowly. After stirring for another 30 min at −78° C., TEA (93.14 g, 0.92 mole, 6.0 eq.) was added slowly. The suspension was then stirred at −78° C. for 30 min, then warmed to room temperature over 2 h. The mixture was diluted with 300 mL DCM and washed with 2×200 mL 2M HCl, 1×100 mL saturated NaHCO3, and then dried over MgSO4, and concentrated to afford 1-[(2E)-3-(3,5-difluorophenyl)-2-propenoyl]-4-piperidinecarbaldehyde (35.4 g, 82%) as a brown oil. The material was used in the next step without further purification. MS (ES) m/e 280 [M+H]+. 1HNMR (CDCl3) δ(ppm): 9.72 (s, 1H), 7.56 (d, 1H), 7.04 (m, 2H), 6.90 (d, 1H), 6.82 (m, 1H), 4.40 (m, 1H), 4.00 (m, 1H), 3.36 (m, 1H), 3.22 (m, 1H), 2.56-2.64 (m, 1H), 2.02 (m, 2H), 1.67 (m, 2H).

reactant | oxalylchloride | 0.20 mole, 25.36 g, 1.3 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethylsulfoxide | 0.40 mole, 31.22 g, 2.6 eq. | CS(=O)C | C2H6OS
reactant | {1-[(2E)-3-(3,5-difluorophenyl)-2-propenoyl]-4-piperidinyl}methanol | FC=1C=C(C=C(C1)F)/C=C/C(=O)N1CCC(CC1)CO | C15H17F2NO2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 900 mL | C(Cl)Cl | CH2Cl2
product | 1-[(2E)-3-(3,5-difluorophenyl)-2-propenoyl]-4-piperidinecarbaldehyde | 35.4 g, 82% | FC=1C=C(C=C(C1)F)/C=C/C(=O)N1CCC(CC1)C=O | C15H15F2NO2
